US06875769B2
8-(1-Ethyl-propoxy)-1,6-dimethyl-4-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
To a −78° C. solution of 8-(1-ethyl-propoxy)-6-methyl-4-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (50 mg, 0.136 mmol) in 3 ml of dry THF was added 1.0M of LiN[Si(CH3)3]2 in THF (0.14 ml, 0.14 mmol) at −78° C. After stirring at that temperature for 20 min, the reaction mixture was warmed to room temperature and stirred at room temperature overnight. The mixture was quenched with water and saturated ammonium chloride and extracted with ethyl acetate. The organic extract was washed with brine, dried and concentrated to give 51 mg of a golden oil. The oil was purified through silica gel column chromatography using 10% ethyl acetate in hexane as eluent to give 41 mg (79%) of the title compound as a golden oil. 1H NMR (CDCl3) δ 6.9(s,2H), 6.17(s,1H), 4.30(m,1H), 4.01(s,2H), 3.47(s,3H), 2.30(s,3H), 2.20(s,3H), 2.01(s,6H), 1.70(m,4H), 0.97(t,6H)ppm.

reactant | 8-(1-ethyl-propoxy)-6-methyl-4-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 0.136 mmol, 50 mg | C(C)C(CC)OC1=CC(=NC=2N(CC(NC21)=O)C2=C(C=C(C=C2C)C)C)C | C22H29N3O2
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | THF | 0.14 mmol, 0.14 ml | C1CCOC1 | C4H8O
product | 8-(1-Ethyl-propoxy)-1,6-dimethyl-4-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 51 mg | C(C)C(CC)OC1=CC(=NC=2N(CC(N(C21)C)=O)C2=C(C=C(C=C2C)C)C)C | C23H31N3O2
